*301CNQ040 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 40V 300A 3us pkg:TO-244 1,2,3
.SUBCKT 301CNQ040 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=426N RS=140U N=1.7 BV=40 IBV=90M
+ CJO=12.3N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 301CNQ040


